US04572912
In a similar manner to Preparation 44, 0.9 g of 6-acetoxy-7-t-butyl-2-methyl-2-(4-nitrophenoxymethyl)chroman-4-one was dissolved in 20 ml of acetic acid, and catalytic hydrogenation was performed for 5.5 hours with a hydrogen pressure of 45-55 lb/sq. inch (3.1-3.8 bars), using Pearl's apparatus, in the presence of 0.4 g of 10% w/w palladium-on-carbon. The palladium-on-carbon was removed by filtration from the reaction mixture and washed with acetic acid. The filtrate and the washings were combined, and the mixture was poured into ice-water, neutralized with sodium carbonate, and extracted with benzene. The benzene extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was subjected to silica gel column chromatography, eluted with a 5:1 by volume mixture of benzene and ethyl acetate, to give the desired 6-acetoxy-2-(4-aminophenoxymethyl)-7-t-butyl-2-methylchroman-4-one.

reactant | 6-acetoxy-7-t-butyl-2-methyl-2-(4-nitrophenoxymethyl)chroman-4-one | 0.9 g | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(C)(C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C23H25NO7
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | 6-acetoxy-2-(4-aminophenoxymethyl)-7-t-butyl-2-methylchroman-4-one | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(C)(C)C)(C)COC1=CC=C(C=C1)N)=O | C23H27NO5
